US05710319
A solution of propyl isocyanate (34.0 g, 0.40 mol) in xylene (100 ml) is metered, at room temperature, into a solution of ethyl anthranilate (66.1 g, 0.40 mol) in xylene (200 ml). After the addition has ended, the batch is stirred at 110° C. for 2 hours. 7.20 ml of a 30% solution of methanolic sodium methylate (0.040 ml) are metered in and the mixture is stirred at 90° C. for a further 2 hours, during which process methanol and ethanol are distilled off. 3.6 ml of 85% formic acid (0.080 mol) are subsequently added and the mixture is stirred at 90° C. for a further hour. After cooling, the product is filtered off with suction, washed with 3×25 ml of xylene, 3×25 ml of ethanol and 3×25 ml of water, and dried. 67.3 g of 3-(propyl)-2,4(1H,3H)-quinazolinedione (yield: 82.4% of theory) of melting point 190° to 191° C. (lit. 187° to 188° C.) are obtained.

reactant | propyl isocyanate | 0.40 mol, 34.0 g | C(CC)N=C=O | C4H7NO
reactant | ethyl anthranilate | 0.40 mol, 66.1 g | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | sodium methylate | 0.040 ml | C[O-].[Na+]
reactant | formic acid | 0.080 mol, 3.6 ml | C(=O)O | CH2O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 3-(propyl)-2,4(1H,3H)-quinazolinedione | 67.3 g, yield: 82.4% | C(CC)N1C(NC2=CC=CC=C2C1=O)=O | C11H12N2O2
